US07109185B2
Synthesis of 2-({(3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)methylidene]-2-oxo-2,3-dihydro-1H-indol-1-yl}methoxy)-N,N,N-trimethyl-2-oxoethanaminium chloride
Following the procedure of Example 2, the title compound was prepared from 2-chloro-N,N,N-trimethyl-2-oxoethanaminium chloride and (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one.

reactant | 2-chloro-N,N,N-trimethyl-2-oxoethanaminium chloride | [Cl-].ClC(C[N+](C)(C)C)=O
reactant | (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)CO)=O | C16H16N2O2
product | 2-({(3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)methylidene]-2-oxo-2,3-dihydro-1H-indol-1-yl}methoxy)-N,N,N-trimethyl-2-oxoethanaminium chloride | [Cl-].CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)COC(C[N+](C)(C)C)=O)=O | InChI=1S/C21H25N3O3.ClH/c1-14-10-15(2)22-18(14)11-17-16-8-6-7-9-19(16)23(21(17)26)13-27-20(25)12-24(3,4)5;/h6-11H,12-13H2,1-5H3;1H
